US04716167
To a mixture of 6-(1-hydroxy-1-methylethyl)-4-oxo-4H-1-benzopyran-3-carbonitrile (4.7 g), ethyl cyanoacetate (2.5 g) and ethanol (100 ml) was added piperidine (1.9 g), which was refluxed for 3 hours, then cooled. The precipitating crystals were collected by filtration. The crystals were dissolved in chloroform, which was subjected to a silica-gel (120 g) column chromatography using chloroform-acetone-formic acid (90:10:1) as the eluent. The solvent was evaporated off. To the residue was added ethanol, and sparingly soluble matter was collected by filtration, which was recrystallized from chloroform to give colorless needles (4.86 g) of ethyl 2-amino-7-(1-hydroxy-1-methylethyl)-5-oxo-5H-[1]benzopyrano[2,3-b]pyridine-3-carboxylate, m.p. 263°-264° C.

reactant | 6-(1-hydroxy-1-methylethyl)-4-oxo-4H-1-benzopyran-3-carbonitrile | 4.7 g | OC(C)(C)C=1C=CC2=C(C(C(=CO2)C#N)=O)C1 | C13H11NO3
reactant | ethyl cyanoacetate | 2.5 g | C(#N)CC(=O)OCC | C5H7NO2
reactant | piperidine | 1.9 g | N1CCCCC1 | C5H11N
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | ethyl 2-amino-7-(1-hydroxy-1-methylethyl)-5-oxo-5H-[1]benzopyrano[2,3-b]pyridine-3-carboxylate | 4.86 g | NC1=C(C=C2C(=N1)OC1=C(C2=O)C=C(C=C1)C(C)(C)O)C(=O)OCC | C18H18N2O5
